US20010023257A1
b) 2-(octahydro-4,7-methanoinden-5-yl)isoindole-1,3-dione
With stirring, 1.7 g of diethyl azodicarboxylate, diluted with 5 ml of THF, were added to a solution of 1.66 g of octahydro-4,7-methanoinden-5-ol, 1.47 g of phthalimide, and 2.62 g of triphenylphosphine in 15 ml of THF. The reaction mixture was allowed to stand overnight and then concentrated, the residue was stirred with ether, the precipitate was filtered off with suction, and the filtrate was concentrated. The residue was purified over silica gel using toluene. This gave 1.36 g of a yellow oil.

reactant | diethyl azodicarboxylate | 1.7 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | octahydro-4,7-methanoinden-5-ol | 1.66 g | C1CCC2C3C(CC(C12)C3)O | C10H16O
reactant | phthalimide | 1.47 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(octahydro-4,7-methanoinden-5-yl)isoindole-1,3-dione | C1CCC2C3C(CC(C12)C3)N3C(C1=CC=CC=C1C3=O)=O | C18H19NO2
